* C:\Users\sethr\OneDrive\Desktop\ECEN-390\ECEN390\Labs\LTspice Transmission Line Lab\LTspice Transmission Line Lab Part 3.asc
Vg N001 0 SINE(0 1V 50MegHz)
T1 Va 0 Vload N002 Td=5n Z0=60ohm
Rload Vload N002 36ohm
Rg Va N001 100ohm
* Seth Ricks
.tran 200ns
.backanno
.end
